US09023873B2
N-[3-[[2,6-dibromo-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]phenyl]-methyl-carbamoyl]-2-methoxy-phenyl]-1-oxido-pyridin-1-ium-4-carboxamide (Compound G19 of Table G)
To a solution of N-[3-[[2,6-dibromo-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]phenyl]-methyl-carbamoyl]-2-methoxy-phenyl]-N-methyl-pyridine-4-carboxamide (Example G-17) (0.0657 g, 0.178 mmole) in dichloromethane (1.08 ml) was added by small portions 3-chloroperbenzoic acid (purity 70%) (0.0657 g, 0.266 mmole). After 2.5 hours stirring at 25° C., the yellow solution was quenched with aqueous sodium sulfite, diluted with dichloromethane and washed twice with saturated aqueous sodium bicarbonate, then with brine. The organic solution was dried over sodium sulfate. The product was isolated after removal of the solvent, as a white powder (melting range: 134-230° C.) showing, by LC-MS analysis (method 6 described hereunder) a retention time of 1.03 min and a M+H+ peak of 702.

reactant | N-[3-[[2,6-dibromo-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]phenyl]-methyl-carbamoyl]-2-methoxy-phenyl]-N-methyl-pyridine-4-carboxamide | 0.178 mmole, 0.0657 g | BrC1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)Br)N(C(=O)C=1C(=C(C=CC1)N(C(=O)C1=CC=NC=C1)C)OC)C | C25H18Br2F7N3O3
reactant | 3-chloroperbenzoic acid | 0.266 mmole, 0.0657 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 1.08 ml | ClCCl | CH2Cl2
product | N-[3-[[2,6-dibromo-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]phenyl]-methyl-carbamoyl]-2-methoxy-phenyl]-1-oxido-pyridin-1-ium-4-carboxamide | BrC1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)Br)N(C(=O)C=1C(=C(C=CC1)NC(=O)C1=CC=[N+](C=C1)[O-])OC)C | C24H16Br2F7N3O4
